US05231183
(E)-N-(6-Hydroxy-6-methyl-2-hepten-4-ynyl)-N-ethyl-3-hydroxybenzylamine
To 7.5 ml tetrahydrofuran were added 1.13 g (5 mmol) of (E)-N-(3-chloro-2-pentenyl-).-N-ethyl-3-hydroxybenzylamine, 4.76 mg (0.25 mmol) of copper (I) iodide, 18.0 mg (0.1 mmol) of palladium chloride and 52.5 mg (0.2 mmol) of triphenylphosphine, and further, 0.99 ml (10 mmol) of n-butylamine and 0.58 ml (6 mmol) of 3 -methyl-1-butyne-3-ol under ice cooling. The mixture was stirred for 20 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=3/2). The desired fractions were put together and concentrated under reduced pressure to obtain 1.07 g (yield: 78%) of the above identified compound as an oil.

reactant | N-ethyl-3-hydroxybenzylamine | C(C)NCC1=CC(=CC=C1)O | C9H13NO
reactant | triphenylphosphine | 0.2 mmol, 52.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 10 mmol, 0.99 ml | C(CCC)N | C4H11N
reactant | 3 -methyl-1-butyne-3-ol | 6 mmol, 0.58 ml | CC(C#C)(C)O | C5H8O
catalyst | copper (I) iodide | 0.25 mmol, 4.76 mg | [Cu]I
catalyst | palladium chloride | 0.1 mmol, 18.0 mg | [Pd](Cl)Cl
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | (E)-N-(6-Hydroxy-6-methyl-2-hepten-4-ynyl)-N-ethyl-3-hydroxybenzylamine | yield: 78% | OC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)O)(C)C | C17H23NO2
